US03960879
7-(2-Hexyl)-2,2-dimethyl-4-(4-pyridyl)-2H-chromen-5-ol (5.00 g), 2-bromomethyl-naphthalene (3.54 g) and acetone (70 ml) were heated together under reflux for 6 hours. The resulting pale yellow precipitate was filtered and dried to yield 4-[7-(2-hexyl)-5-hydroxy-2,2-dimethyl-2H-chromen-4-yl]-1-(2-naphthylmethyl) pyridinium bromide (8.20 g) m.p. 236°- 239°.

reactant | 7-(2-Hexyl)-2,2-dimethyl-4-(4-pyridyl)-2H-chromen-5-ol | 5.00 g | CC(CCCC)C=1C=C(C=2C(=CC(OC2C1)(C)C)C1=CC=NC=C1)O | C22H27NO2
reactant | 2-bromomethyl-naphthalene | 3.54 g | BrCC1=CC2=CC=CC=C2C=C1 | C11H9Br
solvent | acetone | 70 ml | CC(=O)C | C3H6O
product | 4-[7-(2-hexyl)-5-hydroxy-2,2-dimethyl-2H-chromen-4-yl]-1-(2-naphthylmethyl) pyridinium bromide | 8.20 g | [Br-].CC(CCCC)C1=CC(=C2C(=CC(OC2=C1)(C)C)C1=CC=[N+](C=C1)CC1=CC2=CC=CC=C2C=C1)O | InChI=1S/C33H35NO2.BrH/c1-5-6-9-23(2)28-19-30(35)32-29(21-33(3,4)36-31(32)20-28)26-14-16-34(17-15-26)22-24-12-13-25-10-7-8-11-27(25)18-24;/h7-8,10-21,23H,5-6,9,22H2,1-4H3;1H
